US07122565B2
4-[5-(Cyclohex-3-enylimino)-4-methyl-4,5-dihydro-[1,3,4]thiadiazol-2-yl]-benzamide
To a solution of 4-[5-(cyclohex-3-enylimino)-4-methyl-4,5-dihydro-[1,3,4]thiadiazol-2-yl]-benzonitrile from protocol I76 (0.94 mmol, 280 mg) in ethanol (41 mL), a solution of Na2CO3 [3N] (12.3 mmol, 4.1 mL), and a solution of H2O2 at 30% in water (3.33 mL) were added. The mixture was stirred overnight at RT and concentrated under reduced pressure. The residue was stirred in water several hours, filtered, and dried under vacuum to afford the pure product. Yield: 64%.

reactant | 4-[5-(cyclohex-3-enylimino)-4-methyl-4,5-dihydro-[1,3,4]thiadiazol-2-yl]-benzonitrile | C1(CC=CCC1)N=C1N(N=C(S1)C1=CC=C(C#N)C=C1)C | C16H16N4S
reactant | Na2CO3 | 12.3 mmol, 3N, 4.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O2 | OO | H2O2
solvent | ethanol | 41 mL | C(C)O | C2H6O
solvent | water | 3.33 mL | O | H2O
product | 4-[5-(Cyclohex-3-enylimino)-4-methyl-4,5-dihydro-[1,3,4]thiadiazol-2-yl]-benzamide | Yield: 64% | C1(CC=CCC1)N=C1N(N=C(S1)C1=CC=C(C(=O)N)C=C1)C | C16H18N4OS
